US07595397B2
1-[2-Phenyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone
This compound could be made the following manner: 100 mg of 3-phenyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine would be dissolved in dichloromethane, 1.1 equiv. of acetylchloride and 2 equiv. of N,N-diisoproylethylamine would be added. The reaction would be stirred at room temperature under nitrogen overnight. The reaction would be diluted with DCM, washed with 1M aqueous sodium hydroxide solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue would be purified by column chromatography to afford the title compound.

reactant | 3-phenyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | 100 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C23H23ClN2
reactant | acetylchloride | 1.1 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisoproylethylamine | 2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[2-Phenyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone | C1(=CC=CC=C1)C1N(CCN(C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)C(C)=O | C25H25ClN2O
